US06156700
Preparation of 3-[3-(Bromochloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-[3-(chloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.00 g, 0.00266 mol), azo-bis-isobutyronitrile (0.100 g), N-bromosuccinimide (0.712 g, 0.00400 mol) and 1,2-dichloroethane is stirred one hour at reflux. Additional azo-bis-isobutyronitrile (0.0500 g) and N-bromosuccinimide (0.100 g) are added and the mixture is stirred two hours at reflux, cooled to room temperature, diluted with methylene chloride, washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to an orange gum. Chromatography of the gum on silica gel with methylene chloride:ether gives the title compound as a white foam (0.950 g, 80.2%, mp 93-96° C.) which is identified by NMR spectral analysis.

reactant | 3-[3-(chloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00266 mol, 1.00 g | ClCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9ClF3N3O2S
reactant | azo-bis-isobutyronitrile | 0.100 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.00400 mol, 0.712 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | azo-bis-isobutyronitrile | 0.0500 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.100 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[3-(Bromochloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.950 g, 80.2% | BrC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Cl | C14H8BrClF3N3O2S
